US09210927B2
Preparation of 2-(4-Vinylbenzyl)isoindoline-1,3-dione (CI1)
To a stirred solution of 1-(chloromethyl)-4-vinylbenzene (10 g, 66 mmol) in DMF (100 mL) was added potassium phthalimide (13.3 g, 72.1 mmol), and the resultant reaction mixture was heated at 70° C. for 16 h. The reaction mixture was diluted with H2O and extracted with CHCl3. The combined CHCl3 layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Recrystallization from MeOH afforded the title compound as an off-white solid (8 g, 46%): 1H NMR (400 MHz, CDCl3) δ 7.83 (m, 2H), 7.71 (m, 2H), 7.39 (m, 4H), 6.65 (dd, J=17.6, 10.8 Hz, 1H), 5.72 (d, J=17.6 Hz, 1H), 5.21 (d, J=10.8 Hz, 1H), 4.82 (s, 2H); GCMS m/z 263.2 ([M]+); IR (thin film) 3420, 1133, 718 cm−1.

reactant | 1-(chloromethyl)-4-vinylbenzene | 66 mmol, 10 g | ClCC1=CC=C(C=C1)C=C | C9H9Cl
reactant | potassium phthalimide | 72.1 mmol, 13.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(4-Vinylbenzyl)isoindoline-1,3-dione | 8 g, 46% | C(=C)C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C17H13NO2
